US07829560B2
To a stirred solution of (4-cyanomethoxynaphthalen-1-yl)-carbamic acid tert-butyl ester (1.13 g, 3.8 mmol) in anhydrous dichloromethane (15 ml) at room temperature is added trifluoroacetic acid (5 ml). After 4 hours the mixture is poured into ethyl acetate (100 ml) and washed with saturated sodium bicarbonate solution (150 ml). The organic layer is then dried over anhydrous sodium sulfate and evaporated to dryness to give (4-aminonaphthalen-1-yloxy)-acetonitrile as a red brown solid.

reactant | (4-cyanomethoxynaphthalen-1-yl)-carbamic acid tert-butyl ester | 3.8 mmol, 1.13 g | C(C)(C)(C)OC(NC1=CC=C(C2=CC=CC=C12)OCC#N)=O | C17H18N2O3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (4-aminonaphthalen-1-yloxy)-acetonitrile | NC1=CC=C(C2=CC=CC=C12)OCC#N | C12H10N2O
